US09023846B2
2-(5-tert-Butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine hydrochloride was prepared from 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine prepared as described in Example 25) according to the procedure described in Example 2, STEP C substituting 6M HCl in IPA with 2M HCl in Et2O. 1H-NMR (CD3OD) δ: 7.69-7.65 (m, 1H), 7.53-7.60 (m, 2H), 7.42-7.49 (m, 2H), 4.40 (s, 3H), 4.10 (s, 3H), 1.47 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated for C21H21N5OCl2: 430.1 (M+H), Measured: 430.2.

reactant | 2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)Cl)OC)N1)Cl | C21H21Cl2N5O
reactant | HCl | 2M | Cl | ClH
solvent | IPA | CC(C)O | C3H8O
solvent | Et2O | CCOCC | C4H10O
product | 2-(5-tert-Butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-chloro-phenyl)-4-methoxy-3H-imidazo[4,5-c]pyridine hydrochloride | Cl.C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)Cl)OC)N1)Cl | InChI=1S/C21H21Cl2N5O.ClH/c1-21(2,3)18-15(23)17(28(4)27-18)19-24-14-10-13(11-8-6-7-9-12(11)22)25-20(29-5)16(14)26-19;/h6-10H,1-5H3,(H,24,26);1H
